US07361659B2
2-Amino-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide
A stirred suspension of 2-acetamido-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide (0.33 g, 1.02 mmol) in 6N hydrochloric acid (4 ml) was heated for 2 h at 80° C., evaporated., and saturated NaHCO3 solution (30 ml) was added. The mixture was extracted with ethyl acetate (3×50 ml), the combined organic layers washed with brine (30 ml) and dried (MgSO4). The crude product was further purified by crystallization (dichloromethane/MeOH/hexane) to yield the title compound (0.11 g, 38%) as a white solid. MS (ISP) 280.0 [(M−H)−]; mp 170° C.

reactant | 2-acetamido-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide | 1.02 mmol, 0.33 g | OCC(C)(CO)NS(=O)(=O)C1=C(N=C(S1)NC(C)=O)C | C10H17N3O5S2
solvent | hydrochloric acid | 6N, 4 ml | Cl | ClH
product | 2-Amino-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-1-hydroxymethyl-1-methyl-ethyl)-amide | 0.11 g, 38% | OCC(C)(CO)NS(=O)(=O)C1=C(N=C(S1)N)C | C8H15N3O4S2
